US05292719
The starting material 1,1,4,4,7-pentamethyl-5-methoxy-1,2,3,4-tetrahydronaphthalene was prepared as follows. First, a 500 flask was charged with 230 ml dichloromethane, 19 g TiCl4, and 18.3 g 2,5-dichloro-2,5-dimethylhexane, at 22° C. Next, 3-methyl anisole (12.2 g in 20 ml dichloromethane) was added dropwise over a period of an hour. After the addition was completed, the solution was heated to 35° C. and the temperature maintained for an additional 2.5 hours. The solution was then cooled to 5° C. and quenched with water. After transfer to a separatory funnel, the solution was washed with water, then twice with brine, dried over anhydrous sodium sulfate, and rotary evaporated to give a crude product (23.78 g) containing 79.4% (by area % GC) of 1,1,4,4,7-pentamethyl-5-methoxy-1,2,3,4-tetrahydronaphthalene.

reactant | 2,5-dichloro-2,5-dimethylhexane | 18.3 g | ClC(C)(CCC(C)(C)Cl)C | C8H16Cl2
reactant | 3-methyl anisole | 20 ml, 12.2 g | CC=1C=C(C=CC1)OC | C8H10O
reactant | dichloromethane | 230 ml | ClCCl | CH2Cl2
catalyst | TiCl4 | 19 g | Cl[Ti](Cl)(Cl)Cl
product | 1,1,4,4,7-pentamethyl-5-methoxy-1,2,3,4-tetrahydronaphthalene | CC1(CCC(C2=C(C=C(C=C12)C)OC)(C)C)C | C16H24O
